US05202441
N,N'-Dihydroxy-N,N'-bis-(2,2,6,6-tetramethylpiperidin-4-yl)-p-xylylenediamine
from 2,2,6,6-tetramethylpiperidin-4-one oxime and p-xylylene dibromide

reactant | 2,2,6,6-tetramethylpiperidin-4-one oxime | CC1(NC(CC(C1)=NO)(C)C)C | C9H18N2O
reactant | p-xylylene dibromide | C1(=CC=C(C=C1)CBr)CBr | C8H8Br2
product | N,N'-Dihydroxy-N,N'-bis-(2,2,6,6-tetramethylpiperidin-4-yl)-p-xylylenediamine | ON(CC1=CC=C(C=C1)CN(C1CC(NC(C1)(C)C)(C)C)O)C1CC(NC(C1)(C)C)(C)C | C26H46N4O2
